US07842688B2
b) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-(3R,4R)-3-(2-oxo-2,3-dihydrobenzoxazol-5-ylmethoxy)piperidine-1-carboxylate
0.133 ml of phenyl chloroformate are added dropwise to the stirred emulsion of 0.640 g of tert-butyl 3-(3-amino-4-hydroxybenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.086 g of sodium hydrogencarbonate in 4 ml of methanol and 4 ml of water. The reaction mixture is stirred over 15 minutes and then admixed with 2 ml of methanol. After a further 15 minutes, it is admixed with 0.51 ml of 2N NaOH. After a further 10 minutes, the mixture is admixed with 20 ml of 0.5N HCl and extracted with tert-butyl methyl ether (2×30 ml). The organic phases are washed successively with water (30 ml) and brine (30 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.52 (3:1 EtOAc-heptane); Rt=5.56.

reactant | phenyl chloroformate | 0.133 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | tert-butyl 3-(3-amino-4-hydroxybenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.640 g | NC=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1O | C34H44N2O7
reactant | sodium hydrogencarbonate | 0.086 g | C(O)([O-])=O.[Na+]
reactant | NaOH | 2N, 0.51 ml | [OH-].[Na+]
reactant | HCl | 0.5N, 20 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-(3R,4R)-3-(2-oxo-2,3-dihydrobenzoxazol-5-ylmethoxy)piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)[C@@H]2[C@H](CN(CC2)C(=O)OC(C)(C)C)OCC=2C=CC3=C(NC(O3)=O)C2)C=CC=C1 | C35H42N2O8
